Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Ampicillin / Amoxicillin / Macrobid / clams
 
Attending: ___.
 
Chief Complaint:
ACOM aneurysm 
 
Major Surgical or Invasive Procedure:
___ Stent assisted coiling of ACOM aneurysm 

 
History of Present Illness:
Patient is a ___ female with a fairly large
anterior communicating artery aneurysm.  Previously, we were
hesitant about treating it, but with the advent of the Atlas
stent, we felt that she would be a candidate for a 
stent-assisted
coiling.  She came in to the clinic and we had an extensive
discussion about the risks and benefits of surgery, especially
the risk of stroke, hemorrhage and bleeding. 
She presents for elective stent placement.
 
Past Medical History:
RECURRENT URINARY TRACT INFECTION 
CEREBRAL ANEURYSM 
LENTEGINES 
BASAL CELL CARCINOMA 
COUGH VARIANT ASTHMA 
HYPERTENSION 
HYPERCHOLESTEROLEMIA 
SQUAMOUS CELL CARCINOMA IN SITU 
H/O POLYMYALGIA RHEUMATICA 

PSHx: 
BREAST REDUCTION 
APPENDECTOMY 
TONSILLECTOMY 
BASAL CELL CARCINOMA 
 
Social History:
non-smoker, social alcohol 
Occupation: ___
Physical ___:
on discharge:
___ x 3.  NAD.  PERRLA.
CN II-XII intact.  
LS clear.
RRR
Abdomen soft, NTND.
___ BUE and BLE.  No drift.
Groin sites intact without hematoma.

 
Pertinent Results:
Cerebral Angio ___
1. Stent assisted coiling of an A-comm aneurysm compatible with 
___ grade 1. 

 
Brief Hospital Course:
Patient was electively taken to the angio suite on ___ for 
stent assisted coiling of anterior communicating artery aneurysm 
with Dr. ___. Procedure was uncomplicated and bilateral 
groins were angiosealed. She was continued on Aspin 325 mg and 
Plavix 75 mg daily. She remained neurologically intact.

On ___, the patient remain intact.  She had no pain or HA and 
was ambulating independently.  Her foley and arterial line were 
removed.  The angio sites were clean and dry with slight 
sanguinous drainage and no hematoma. She was discharged ___ in 
the morning without incident. 
 
Medications on Admission:
albuterol, atorvastatin, Plavix, advair, HCTZ, montelukast, 
omeprazole, ranitidine, verapamil, aspirin, Ca, D3, Colace, B6,  

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
4.  Docusate Sodium 100 mg PO BID  
5.  Senna 17.2 mg PO QHS  
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
7.  Atorvastatin 10 mg PO 3X/WEEK (MO,WE,SA)  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  Hydrochlorothiazide 12.5 mg PO DAILY  
10.  Montelukast 10 mg PO DAILY  
11.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACOM Aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity

·     You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.

·     Heavy lifting, running, climbing, or other strenuous 
exercise should be avoided for ten (10) days. This is to prevent 
bleeding from your groin.

·     You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

·     Do not go swimming or submerge yourself in water for five 
(5) days after your procedure.

·     You make take a shower.

Medications

·     Resume your normal medications and begin new medications 
as directed.

·     You may be instructed by your doctor to take one ___ a 
day and/or Plavix. If so, do not take any other products that 
have aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

·     If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site

·     You will have a small bandage over the site.

·     Remove the bandage in 24 hours by soaking it with water 
and gently peeling it off.

·     Keep the site clean with soap and water and dry it 
carefully.

·     You may use a band-aid if you wish.

 

What You ___ Experience:

·     Mild tenderness and bruising at the puncture site (groin).

·     Soreness in your arms from the intravenous lines.

·     Mild to moderate headaches that last several days to a few 
weeks.

·     Fatigue is very normal

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
puncture site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Constipation

·     Blood in your stool or urine

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 
Followup Instructions:
___